US09079916B2
To 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride (91 mg, 0.35 mmol) and tert-butyl 4-(2-amino-5-methylpyrimidin-4-yl)benzoate (50 mg, 0.175 mmol), pyridine (2 mL) was added. The reaction was heated at 90° C. for twenty four hours. The pyridine was evaporated under reduced pressure. The resulting mixture was dissolved in EtOAc and filtered. The filtrate was washed with saturated aqueous NaHCO3 (×3). The organic layer was dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel to yield tert-butyl 4-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyrimidin-4-yl)benzoate. ESI-MS m/z calc. 509.2. Found 510.5 (M+1)+. Retention time 2.18 minutes.

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarbonyl chloride | 0.35 mmol, 91 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)Cl)F | C11H7ClF2O3
reactant | tert-butyl 4-(2-amino-5-methylpyrimidin-4-yl)benzoate | 0.175 mmol, 50 mg | NC1=NC=C(C(=N1)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C | C16H19N3O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-(2-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-5-methylpyrimidin-4-yl)benzoate | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=N2)C2=CC=C(C(=O)OC(C)(C)C)C=C2)C)F | C27H25F2N3O5
